US05665747
1,1-Di(2-thiazolyl)ethanol
n-Butyllithium (2.5M solution in hexanes, 17.3 ml) was added dropwise to a stirred solution of 2-bromothiazole (6.5 g) in anhydrous diethyl ether (40 ml) at -70° C. under an atmosphere of dry nitrogen. After 30 minutes, 2-acetylthiazole (5 g) in diethyl ether (10 ml) was added dropwise. After a further 1 hour, the mixture was allowed to warm to room temperature. After 1 hour, saturated aqueous sodium hydrogen carbonate solution was added and the organic phase was separated. Further processing in the usual fashion then gave the title compound.

reactant | n-Butyllithium | 2.5M, 17.3 ml | C(CCC)[Li]
reactant | 2-bromothiazole | 6.5 g | BrC=1SC=CN1 | C3H2BrNS
reactant | 2-acetylthiazole | 5 g | C(C)(=O)C=1SC=CN1 | C5H5NOS
reactant | sodium hydrogen carbonate | C(O)([O-])=O.[Na+]
solvent | diethyl ether | 40 ml | C(C)OCC | C4H10O
solvent | diethyl ether | 10 ml | C(C)OCC | C4H10O
product | 1,1-Di(2-thiazolyl)ethanol | S1C(=NC=C1)C(C)(O)C=1SC=CN1 | C8H8N2OS2
